US08247403B2
(1) N-benzyl-3-bromo-2,4-difluoro-N-(2-hydroxyethyl)benzamide
To a mixture of 3-bromo-2,4-difluorobenzoic acid (1.00 g, 4.22 mmol), N,N-dimethylformamide (0.2 ml) and toluene (20 ml) was added under ice-cooling oxalyl dichloride (0.434 ml). The mixture was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. To a solution of the residue in tetrahydrofuran (30 ml) were added N-benzylethanolamine (702 mg) and 1N aqueous sodium hydroxide solution (10 ml), and the mixture was stirred at room temperature for 0.5 hr. The reaction mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (1.41 g, 90.3%) as a solid.

reactant | 3-bromo-2,4-difluorobenzoic acid | 4.22 mmol, 1.00 g | BrC=1C(=C(C(=O)O)C=CC1F)F | C7H3BrF2O2
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | oxalyl dichloride | 0.434 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-3-bromo-2,4-difluoro-N-(2-hydroxyethyl)benzamide | 1.41 g, 90.3% | C(C1=CC=CC=C1)N(C(C1=C(C(=C(C=C1)F)Br)F)=O)CCO | C16H14BrF2NO2
